US04670441
(a) 1,3-Dimethyl-5-ethoxycarbonyl-2-thiobarbituric acid
155 g (0.9 mol) of 1,3-dimethyl-2-thiobarbituric acid, 88,3 g (1.12 mol) of pyridine and 9 g of 4-dimethylaminopyridine are dissolved in 660 ml of dichloromethane and the solution is cooled to 0° C. Then 102 g (0.94 mol) of ethyl chloroformate are added dropwise over 1 hour. The mixture is subsequently stirred for 12 hours at 0° C., then allowed to warm to room temperature and worked up after a further 7 hours as follows. 600 ml of dichloromethane are added and the solution is washed with three 1000 ml portions of water, dried over Na2SO4 and the solvent is evaporated off. The crude product is recrystallised from ethanol. Melting point 90°-93° C.

reactant | 1,3-dimethyl-2-thiobarbituric acid | 0.9 mol, 155 g | CN1C(=S)N(C(=O)CC1=O)C | C6H8N2O2S
reactant | pyridine | 1.12 mol, 88,3 g | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 0.94 mol, 102 g | ClC(=O)OCC | C3H5ClO2
catalyst | 4-dimethylaminopyridine | 9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 660 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 1,3-Dimethyl-5-ethoxycarbonyl-2-thiobarbituric acid | CN1C(=S)N(C(=O)C(C1=O)C(=O)OCC)C | C9H12N2O4S
